US05824652
trans-2-Methyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylic acid
A solution of trans-ethyl-2-methyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylate (4.80 g, 19.8 mmoles) and 1N NaOH (29,7 ml, 20.7 mmoles) in dioxan (80 ml) was stirred for 20 hours. The solvent was evaporated, 1N HCl (90 ml, 90 mmoles) was added to the residue and the mixture was extracted with ethyl acetate (4×60 ml). The organic phase was dried over MgSO4, the solvent was evaporated and the product was recrystallized from ethyl acetate. Thus there were obtained 2.3 g (54,5%) of the title product in the form of white crystals, m.p. 142°-144° C.

reactant | trans-ethyl-2-methyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylate | 19.8 mmoles, 4.80 g | C(C)OC(=O)C1(O[C@H]2[C@H](NC1=O)CCCC2)C | C12H19NO4
reactant | NaOH | 20.7 mmoles, 1N, 29,7 ml | [OH-].[Na+]
reactant | HCl | 90 mmoles, 1N, 90 ml | Cl | ClH
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
product | trans-2-Methyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylic acid | 2.3 g, 54,5% | CC1(O[C@H]2[C@H](NC1=O)CCCC2)C(=O)O | C10H15NO4
